US04971982
280 mg of 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide were heated at 120° C. in 3 ml of acetic anhydride for 24 hours. After cooling the mixture was evaporated and the residue was partitioned between ethyl acetate and aqueous sodium bicarbonate solution. The organic phase was dried over sodium sulphate and evaporated. The residue was recrystallized from cyclohexane to give 181 mg of 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile which was used without further purification.

reactant | 2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide | 280 mg | C(#N)C=1C=CC2=C(C(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1 | C17H16N2O2
solvent | acetic anhydride | 3 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran-6-carbonitrile | 181 mg | CC1(OC2=C(C(=C1)C1=NC=CC=C1)C=C(C=C2)C#N)C | C17H14N2O
